US08232283B2
2-(2-Chloro-4-nitrophenyl)acetic acid (67.2 mmol) was dissolved in DMF (500 mL) to give a colorless solution. CDI (87 mmol) was added in one portion. The mixture was stirred at room temperature until bubbling of the solution ceased. Methoxylamine hydrochloride (87 mmol) was added poroom temperatureion wise, and the resulting mixture was stirred at room temperature over night. The resulting suspension was concentrated under reduced pressure to 100 mL and then diluted with EtOAc (1200 mL). The resulting solution was washed with water (2×700 mL) and the aqueous layer was extracted back with EtOAc (2×600 mL). The organic layers were combined and washed with sat. aq. NaHCO3 (1×1200 mL) and sat. aq. NaCl (1×1200 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give 2-(2-chloro-4-nitrophenyl)-N-methoxyacetamide as a solid (85%).

reactant | 2-(2-Chloro-4-nitrophenyl)acetic acid | 67.2 mmol | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6ClNO4
reactant | CDI | 87 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Methoxylamine hydrochloride | 87 mmol | Cl.O(C)N
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2-(2-chloro-4-nitrophenyl)-N-methoxyacetamide | 85% | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)NOC | C9H9ClN2O4
